US08389508B2
To a solution of 5-bromo-2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazole (D71) (500 mg), 2-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (530 mg) and tripotassium phosphate (651 mg) in N,N-dimethylformamide (DMF) (12 mL) and water (2 mL) stirred under nitrogen at room temperature was added Pd(Ph3P)4 (177 mg) in one charge. The reaction vessel was sealed and heated under microwave at 120° C. for 15 min. After cooling the reaction, the reaction mixture was filtered and the filtrate was partitioned between ethyl acetate (250 mL) and saturated brine (50 mL). The organic phase was dried over sodium sulphate and evaporated in vacuo. The crude product was purified by column chromatography to give 2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-5-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-1,3-thiazole (D77) (500 mg) as a brown oil. MS (ES): C23H24ClNO2S requires 413. found 414.2 (M+H+).

reactant | 5-bromo-2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazole | 500 mg | BrC1=CN=C(S1)C1=CC(=C(C=C1)OC(C)C)Cl | C12H11BrClNOS
reactant | 2-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 530 mg | C(C)C1=C(C=CC=C1\C=C\OC)B1OC(C(O1)(C)C)(C)C | C17H25BO3
reactant | tripotassium phosphate | 651 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | water | 2 mL | O | H2O
catalyst | Pd(Ph3P)4 | 177 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-5-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-1,3-thiazole | 500 mg | ClC=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C1=C(C(=CC=C1)\C=C\OC)CC | C23H24ClNO2S
